US05858363
Isopropyl 17-amino-3,6,9,12,15-pentaoxahepta-decanoate (see part I of the experimental part) (1.1 g, 3.2 mmole) was dissolved in 3 ml of 1M sodium hydroxide solution and left at room temperature for 30 min. 1.5 ml of 6M hydrochloric acid was added and the mixture was evaporated to dryness. The residue was taken up in dichloromethane and filtered to give 545 mg of 17-amino-3,6,9,12,15-pentaoxa-heptadecanoic acid after evaporation of the solvent. 460 mg (1,39 mmoles) of this compound were dissolved in 10 ml of borate buffer pH 8.4. The solution was deaerated with nitrogen gas. A solution of 432 mg (1.52 mmoles) of N-succinimidyl 2-iodoacetate in 5 ml of dioxane was added dropwise during 1 min pH was kept at 8.4 by addition of 5M NaOH. The reaction solution was stirred for 15 min during inlet of nitrogen gas. According to thin layer chromatography (eluent: CH2Cl2 --MeOH 60:35) the reaction was completed in some few minutes. After 15 min the pH of the reaction solution was adjusted to 3 and the solution was frozen and lyophilized. The reaction mixture was fractionated on a reversed phase column PEP--RPC HR 30/26 (Pharmacia Biosystems AB) using a gradient of 0-13% acetoniIrile with 0.1% tri-fluoroacetic acid followed by isocratic separation at 13% acetonitrile, 0.1% TFA. Fractions from the desired peak were pooled and lyophilized giving 351 mg of 17-iodoacetylamino-3,6,9,12,15-pentaoxa-heptadecanoic acid (A). Yield: 76%.

reactant | Isopropyl 17-amino-3,6,9,12,15-pentaoxahepta-decanoate | NCCOCCOCCOCCOCCOCC(=O)OC(C)C | C15H31NO7
reactant | hydrochloric acid | 6M, 1.5 ml | Cl | ClH
solvent | sodium hydroxide | 1M, 3 ml | [OH-].[Na+]
product | 17-amino-3,6,9,12,15-pentaoxa-heptadecanoic acid | 545 mg | NCCOCCOCCOCCOCCOCC(=O)O | C12H25NO7
